US04865837
To a continuously stirred mixture of 13.8 grams of 1,2,4-triazole in 120 ml of methanol cooled at 0° was added 11.9 grams of sodium methoxide. The mixture was allowed to warm to room temperature and stir for 45 minutes whereupon the mixture was again cooled at 0° C. and there was added 25.3 ml of benzyl chloride. After being warmed to room temperature and continuously stirred for 14 hours, the mixture was concentrated and the residue extracted well with dichloromethane. The extract was washed with saturated brine, dried over magnesium sulfate, filtered, and evaporated to give a crude product that was purified by flash column chromatography over silica gel and eluted with dichloromethane/ ethyl acetate (2:1) to give 28.5 grams of pure 1-benzyl-1,2,4-triazole as a solid melting at 44°-45° C.

reactant | 1,2,4-triazole | 13.8 grams | N1N=CN=C1 | C2H3N3
reactant | sodium methoxide | 11.9 grams | C[O-].[Na+]
reactant | benzyl chloride | 25.3 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 120 ml | CO | CH4O
product | 1-benzyl-1,2,4-triazole | 28.5 grams | C(C1=CC=CC=C1)N1N=CN=C1 | C9H9N3
